US03965101
C. o-Bromo-α-chloroanisole
A mixture of 29.0 g of (o-bromophenoxy)methane sulfonic acid, sodium salt and 50.0 g of PCl5 are thoroughly blended in a mortar. After about 10 minutes of continuous mixing, the mixture partly melts, a vigorous reaction occurs, and the whole turns to a liquid. The mixture is kept 15 minutes with occasional stirring, 700 ml of ether is added (a white solid separates) and the mixture is poured into 750 g of crushed ice. The ether solution is separated, washed, dried, and concentrated in vacuo to give about 21.0 g of a liquid residue. This is distilled under reduced pressure to give about 19.5 g of the colorless liquid product, b2.0 74°-75°, nD24.5 1.5799.

reactant | (o-bromophenoxy)methane sulfonic acid | 29.0 g | BrC1=C(OCS(=O)(=O)O)C=CC=C1 | C7H7BrO4S
reactant | sodium | [Na] | Na
reactant | PCl5 | 50.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | ether | 700 ml | CCOCC | C4H10O
product | o-Bromo-α-chloroanisole | about 21.0 g | BrC1=C(C=CC=C1)OCCl | C7H6BrClO
